* sparx_bpf_le - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT sparx_bpf_le p1 p2
V1 p1 s1 0
R1 s1 0 50
Gd1_1 0 s1 p1 0 -0.01152203666
Fd1_1 0 s1 V1 -0.5761018332
Gr1_1_1 0 s1 x1_a1 0 1.802828364
Gr2_re_1_1 0 s1 x2_re_a1 0 534726.9071
Gr2_im_1_1 0 s1 x2_im_a1 0 1511812.879
Gr3_re_1_1 0 s1 x3_re_a1 0 207144.116
Gr3_im_1_1 0 s1 x3_im_a1 0 -207661.5611
Gr4_re_1_1 0 s1 x4_re_a1 0 246604.246
Gr4_im_1_1 0 s1 x4_im_a1 0 -342872.0511
Gr5_re_1_1 0 s1 x5_re_a1 0 107797.5463
Gr5_im_1_1 0 s1 x5_im_a1 0 -516850.4319
Gr6_re_1_1 0 s1 x6_re_a1 0 612870.507
Gr6_im_1_1 0 s1 x6_im_a1 0 -522429.7965
Gr7_re_1_1 0 s1 x7_re_a1 0 499995.0683
Gr7_im_1_1 0 s1 x7_im_a1 0 124390.3555
Gd1_2 0 s1 p2 0 6.593548549e-05
Fd1_2 0 s1 V2 0.003296774274
Gr1_1_2 0 s1 x1_a2 0 -0.001711295558
Gr2_re_1_2 0 s1 x2_re_a2 0 -4726.346575
Gr2_im_1_2 0 s1 x2_im_a2 0 -4901.04087
Gr3_re_1_2 0 s1 x3_re_a2 0 -198422.5585
Gr3_im_1_2 0 s1 x3_im_a2 0 212524.2185
Gr4_re_1_2 0 s1 x4_re_a2 0 244309.9212
Gr4_im_1_2 0 s1 x4_im_a2 0 -349106.2097
Gr5_re_1_2 0 s1 x5_re_a2 0 -99489.26335
Gr5_im_1_2 0 s1 x5_im_a2 0 534718.0428
Gr6_re_1_2 0 s1 x6_re_a2 0 113173.2055
Gr6_im_1_2 0 s1 x6_im_a2 0 271618.2294
Gr7_re_1_2 0 s1 x7_re_a2 0 -150133.6276
Gr7_im_1_2 0 s1 x7_im_a2 0 -368098.0379
Cx1_a1 x1_a1 0 2.471715245e-12
Gx1_a1 0 x1_a1 p1 0 0.03605656728
Fx1_a1 0 x1_a1 V1 1.802828364
Rp1_a1 0 x1_a1 1
Cx2_re_a1 x2_re_a1 0 6.28342386e-13
Gx2_re_a1 0 x2_re_a1 p1 0 7.44449757e-08
Fx2_re_a1 0 x2_re_a1 V1 3.722248785e-06
Rp2_re_re_a1 0 x2_re_a1 1
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 1.073225546
Cx2_im_a1 x2_im_a1 0 6.28342386e-13
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -1.073225546
Rp2_im_im_a1 0 x2_im_a1 1
Cx3_re_a1 x3_re_a1 0 3.881034056e-11
Gx3_re_a1 0 x3_re_a1 p1 0 3.204492022e-08
Fx3_re_a1 0 x3_re_a1 V1 1.602246011e-06
Rp3_re_re_a1 0 x3_re_a1 1
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 35.92719925
Cx3_im_a1 x3_im_a1 0 3.881034056e-11
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -35.92719925
Rp3_im_im_a1 0 x3_im_a1 1
Cx4_re_a1 x4_re_a1 0 2.816494014e-11
Gx4_re_a1 0 x4_re_a1 p1 0 4.19040352e-08
Fx4_re_a1 0 x4_re_a1 V1 2.09520176e-06
Rp4_re_re_a1 0 x4_re_a1 1
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 27.88510804
Cx4_im_a1 x4_im_a1 0 2.816494014e-11
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -27.88510804
Rp4_im_im_a1 0 x4_im_a1 1
Cx5_re_a1 x5_re_a1 0 2.832231764e-11
Gx5_re_a1 0 x5_re_a1 p1 0 3.174687696e-08
Fx5_re_a1 0 x5_re_a1 V1 1.587343848e-06
Rp5_re_re_a1 0 x5_re_a1 1
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 30.26109416
Cx5_im_a1 x5_im_a1 0 2.832231764e-11
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -30.26109416
Rp5_im_im_a1 0 x5_im_a1 1
Cx6_re_a1 x6_re_a1 0 1.004943133e-11
Gx6_re_a1 0 x6_re_a1 p1 0 6.759271834e-08
Fx6_re_a1 0 x6_re_a1 V1 3.379635917e-06
Rp6_re_re_a1 0 x6_re_a1 1
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 11.89747778
Cx6_im_a1 x6_im_a1 0 1.004943133e-11
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -11.89747778
Rp6_im_im_a1 0 x6_im_a1 1
Cx7_re_a1 x7_re_a1 0 1.056929241e-11
Gx7_re_a1 0 x7_re_a1 p1 0 5.268398608e-08
Fx7_re_a1 0 x7_re_a1 V1 2.634199304e-06
Rp7_re_re_a1 0 x7_re_a1 1
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 12.42993984
Cx7_im_a1 x7_im_a1 0 1.056929241e-11
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -12.42993984
Rp7_im_im_a1 0 x7_im_a1 1
V2 p2 s2 0
R2 s2 0 50
Gd2_1 0 s2 p1 0 6.593548542e-05
Fd2_1 0 s2 V1 0.003296774271
Gr1_2_1 0 s2 x1_a1 0 -0.001711343223
Gr2_re_2_1 0 s2 x2_re_a1 0 -4719.913325
Gr2_im_2_1 0 s2 x2_im_a1 0 -4894.369837
Gr3_re_2_1 0 s2 x3_re_a1 0 -198312.5628
Gr3_im_2_1 0 s2 x3_im_a1 0 212406.4056
Gr4_re_2_1 0 s2 x4_re_a1 0 244225.8747
Gr4_im_2_1 0 s2 x4_im_a1 0 -348986.1117
Gr5_re_2_1 0 s2 x5_re_a1 0 -99294.72988
Gr5_im_2_1 0 s2 x5_im_a1 0 533672.4972
Gr6_re_2_1 0 s2 x6_re_a1 0 104480.8758
Gr6_im_2_1 0 s2 x6_im_a1 0 250756.4433
Gr7_re_2_1 0 s2 x7_re_a1 0 -156574.9345
Gr7_im_2_1 0 s2 x7_im_a1 0 -383890.8517
Gd2_2 0 s2 p2 0 -0.01149510096
Fd2_2 0 s2 V2 -0.5747550482
Gr1_2_2 0 s2 x1_a2 0 1.802878579
Gr2_re_2_2 0 s2 x2_re_a2 0 533078.962
Gr2_im_2_2 0 s2 x2_im_a2 0 1512360.945
Gr3_re_2_2 0 s2 x3_re_a2 0 206799.8156
Gr3_im_2_2 0 s2 x3_im_a2 0 -209079.5757
Gr4_re_2_2 0 s2 x4_re_a2 0 246349.8264
Gr4_im_2_2 0 s2 x4_im_a2 0 -346362.7568
Gr5_re_2_2 0 s2 x5_re_a2 0 107166.4454
Gr5_im_2_2 0 s2 x5_im_a2 0 -526390.8195
Gr6_re_2_2 0 s2 x6_re_a2 0 596079.4678
Gr6_im_2_2 0 s2 x6_im_a2 0 -457803.252
Gr7_re_2_2 0 s2 x7_re_a2 0 567150.7381
Gr7_im_2_2 0 s2 x7_im_a2 0 -4119.378733
Cx1_a2 x1_a2 0 2.471715245e-12
Gx1_a2 0 x1_a2 p2 0 0.03605757159
Fx1_a2 0 x1_a2 V2 1.802878579
Rp1_a2 0 x1_a2 1
Cx2_re_a2 x2_re_a2 0 6.28342386e-13
Gx2_re_a2 0 x2_re_a2 p2 0 7.434364522e-08
Fx2_re_a2 0 x2_re_a2 V2 3.717182261e-06
Rp2_re_re_a2 0 x2_re_a2 1
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 1.073225546
Cx2_im_a2 x2_im_a2 0 6.28342386e-13
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -1.073225546
Rp2_im_im_a2 0 x2_im_a2 1
Cx3_re_a2 x3_re_a2 0 3.881034056e-11
Gx3_re_a2 0 x3_re_a2 p2 0 3.20271561e-08
Fx3_re_a2 0 x3_re_a2 V2 1.601357805e-06
Rp3_re_re_a2 0 x3_re_a2 1
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 35.92719925
Cx3_im_a2 x3_im_a2 0 3.881034056e-11
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -35.92719925
Rp3_im_im_a2 0 x3_im_a2 1
Cx4_re_a2 x4_re_a2 0 2.816494014e-11
Gx4_re_a2 0 x4_re_a2 p2 0 4.188961956e-08
Fx4_re_a2 0 x4_re_a2 V2 2.094480978e-06
Rp4_re_re_a2 0 x4_re_a2 1
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 27.88510804
Cx4_im_a2 x4_im_a2 0 2.816494014e-11
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -27.88510804
Rp4_im_im_a2 0 x4_im_a2 1
Cx5_re_a2 x5_re_a2 0 2.832231764e-11
Gx5_re_a2 0 x5_re_a2 p2 0 3.168480161e-08
Fx5_re_a2 0 x5_re_a2 V2 1.584240081e-06
Rp5_re_re_a2 0 x5_re_a2 1
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 30.26109416
Cx5_im_a2 x5_im_a2 0 2.832231764e-11
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -30.26109416
Rp5_im_im_a2 0 x5_im_a2 1
Cx6_re_a2 x6_re_a2 0 1.004943133e-11
Gx6_re_a2 0 x6_re_a2 p2 0 6.240122278e-08
Fx6_re_a2 0 x6_re_a2 V2 3.120061139e-06
Rp6_re_re_a2 0 x6_re_a2 1
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 11.89747778
Cx6_im_a2 x6_im_a2 0 1.004943133e-11
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -11.89747778
Rp6_im_im_a2 0 x6_im_a2 1
Cx7_re_a2 x7_re_a2 0 1.056929241e-11
Gx7_re_a2 0 x7_re_a2 p2 0 5.494433061e-08
Fx7_re_a2 0 x7_re_a2 V2 2.74721653e-06
Rp7_re_re_a2 0 x7_re_a2 1
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 12.42993984
Cx7_im_a2 x7_im_a2 0 1.056929241e-11
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -12.42993984
Rp7_im_im_a2 0 x7_im_a2 1
.ENDS sparx_bpf_le
